US08058444B2
(4-(Pyridin-2-yloxymethyl)-phenyl)-acetaldehyde
A mixture of sodium 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate described in Preparation Example 2-1-2 (9.95 g), toluene (200 mL), water (120 mL) and acetic acid (16 mL) was stirred at 73° C for 90 minutes. The reaction mixture was allowed to room temperature, to the reaction mixture was added ethyl acetate, and extracted, and then the organic layer was separated, washed with saturated sodium chloride water, and dried over anhydrous magnesium sulfate. The solvent thereof was evaporated under a reduced pressure to obtain the title compound (6.82 g).

reactant | sodium 3-(4-(pyridin-2-yloxymethyl)-phenyl)-oxiran-2-carboxylate | N1=C(C=CC=C1)OCC1=CC=C(C=C1)C1C(O1)C(=O)[O-].[Na+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 120 mL | O | H2O
reactant | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(Pyridin-2-yloxymethyl)-phenyl)-acetaldehyde | 6.82 g | N1=C(C=CC=C1)OCC1=CC=C(C=C1)CC=O | C14H13NO2
